US06245760B1
6,7-Dimethoxy-2-quinoxaline carboxaldehyde
To a reaction flask under argon is added 1,4-dioxane (20 mL), 2-methyl-6,7-dimethoxyquinoxaline (1.09 g, 5.3 mmol) and SeO2 (1.8 g, 16 mmol). The mixture is heated to 100° C. for 2 hours 45 minutes, cooled, and filtered through Celite. The pad is washed with portions of EtOAc and CH2Cl2. The resulting solution is concentrated, taken up in MeOH/CH2Cl2, loaded onto a silica gel column, and chromatographed (30% EtOAc/CH2Cl2) to provide an off-white solid (73% yield).

reactant | 2-methyl-6,7-dimethoxyquinoxaline | 5.3 mmol, 1.09 g | CC1=NC2=CC(=C(C=C2N=C1)OC)OC | C11H12N2O2
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6,7-Dimethoxy-2-quinoxaline carboxaldehyde | 73% yield | COC=1C=C2N=CC(=NC2=CC1OC)C=O | C11H10N2O3
